US05246948
i) Synthesis of 5-(2-thienylmethylene)-2,4-thiazolidinedione
To a solution of 20 g (171 mmol) of 2,4-thiazolidinedione and 16.0 ml (171 mmol) of 2-thiophenecarboxaldehyde in 350 ml of ethanol, 1.68 ml (17.1 mmol) of piperidine was added, and the mixture was heated under reflux for 5 hours. After cooling, the precipitated crystals were filtered and washed with cooled ethanol to give 24.03 g of the desired compound (66.6% yield, pale yellow crystals).

reactant | 2,4-thiazolidinedione | 171 mmol, 20 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 2-thiophenecarboxaldehyde | 171 mmol, 16.0 ml | S1C(=CC=C1)C=O | C5H4OS
reactant | piperidine | 17.1 mmol, 1.68 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 5-(2-thienylmethylene)-2,4-thiazolidinedione | 24.03 g, 66.6% yield | S1C(=CC=C1)C=C1C(NC(S1)=O)=O | C8H5NO2S2
